US06750232B2
1-(2-Furyl)-2-(4-pyridyl)-1-ethanone
In a nitrogen atmosphere, lithium bis (trimethylsilyl) amide (100 mL, 100 mmol) was added dropwise into a solution of 4-picoline (4.6 g, 49.4 mmol) and ethyl 2-furancarboxylate (7.7 g, 54.9 mmol) in tetrahydrofuran (40 mL) at 0° C. over 1 hour, followed by stirring as it was for 2 hours. Hexane (140 mL) was added to the reaction solution, and the resulting crystals were collected by filtration. The resulting crystals were dissolved in ethyl acetate and an aqueous saturated solution of ammonium chloride. The organic layer was washed with an aqueous saturated solution of ammonium chloride (×2) and brine, dried over anhydrous sodium sulfate, and concentrated. Hexane was added to the residue, and the resulting precipitates were collected by filtration and washed with hexane, to give the title compound (6.5 g, 70%) as a pale yellow solid.

reactant | lithium bis (trimethylsilyl) amide | 100 mmol, 100 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-picoline | 49.4 mmol, 4.6 g | N1=CC=C(C=C1)C | C6H7N
reactant | ethyl 2-furancarboxylate | 54.9 mmol, 7.7 g | O1C(=CC=C1)C(=O)OCC | C7H8O3
reactant | Hexane | 140 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-(2-Furyl)-2-(4-pyridyl)-1-ethanone | 6.5 g, 70% | O1C(=CC=C1)C(CC1=CC=NC=C1)=O | C11H9NO2
